US04362728
A solution of 2,2,2-trifluoroethylisothiocyanate (1.4 g.) in acetone (20 ml.) was added to a solution of methanesulphonamide (0.95 g.) and sodium hydroxide (0.44 g.) in water (10 ml.) and the mixture stirred and heated under reflux for 18 hours, and then evaporated to dryness. The residue was dissolved in water and the solution washed with ethyl acetate and then acidified with concentrated hydrochloric acid. The mixture was extracted three times with ethyl acetate and the combined extracts dried and evaporated to dryness. The residue was triturated with acetonitrile and filtered and the filtrate evaporated to dryness. The residue was dissolved in ether, and the solution extracted with aqueous sodium bicarbonate solution. The extract was neutralised with N hydrochloric acid and the mixture extracted with ethyl acetate. The ethyl acetate extract was dried and evaporated to dryness to give 1-methanesulphonyl-3-(2,2,2-trifluoroethyl)thiourea (0.45 g.) which was used without further purification.

reactant | 2,2,2-trifluoroethylisothiocyanate | 1.4 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | methanesulphonamide | 0.95 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydroxide | 0.44 g | [OH-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 1-methanesulphonyl-3-(2,2,2-trifluoroethyl)thiourea | 0.45 g | CS(=O)(=O)NC(=S)NCC(F)(F)F | C4H7F3N2O2S2
